US05780488
Step A: Preparation of 3-(4-cyanobenzyl)pyridin-4-carboxylic acid methyl ester
A solution of 4-cyanobenzyl bromide (625 mg, 3.27 mmol) in dry THF (4mL) was added slowly over ~3 min. to a suspension of activated Zn (dust; 250 mg) in dry THF (2 mL) at 0° under an argon atmosphere. The ice-bath was removed and the slurry was stirred at room temperature for a further 30 min. Then 3-bromopyridin-4-carboxylic acid methyl ester (540 mg. 2.5 mmol) followed by dichlorobis(triphenylphosphine)nickel (II) (50 mg). The resultant reddish-brown mixture was stirred for 3 h at ~40°-45° C. The mixture was cooled and distributed between EtOAc (100 ml) and 5% aqueous citric acid (50 mL). The organic layer was washed with H2O (2×50 mL), dried with Na2 SO4. After evaporation of the solvent the residue was purified on silica gel, eluting with 35% EtOAc in hexane to give 420 mg as a clear gum. FAB ms (M+1) 253.

reactant | 4-cyanobenzyl bromide | 3.27 mmol, 625 mg | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | 3-bromopyridin-4-carboxylic acid methyl ester | 2.5 mmol, 540 mg | COC(=O)C1=C(C=NC=C1)Br | C7H6BrNO2
reactant | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
reactant | citric acid | 50 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 4mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Zn | 250 mg | [Zn] | Zn
catalyst | dichlorobis(triphenylphosphine)nickel | 50 mg | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(4-cyanobenzyl)pyridin-4-carboxylic acid methyl ester | COC(=O)C1=C(C=NC=C1)CC1=CC=C(C=C1)C#N | C15H12N2O2
